Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Percocet
 
Attending: ___
 
Chief Complaint:
Weakness, Hematuria
 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ year old woman
with history of MI, PVD, mesenteric ischemia s/p SMA bypass and
multiple revascularizations (most recently s/p exlap and SMA
thrombectomy) on Coumadin, who is presenting with
fatigue/weakness x10 days and painless hematuria x7 days in the
setting of taking extra Warfarin - found to have an INR of 14.1.

Ms. ___ states that ~10 days ago she "felt like [I] was
getting the flu" in terms of becoming very fatigued and
developing a cough. She then noticed that for the past 7 days,
she felt much more disoriented and had having increasing memory
loss during during the night (for example, pt notes that her
partner would give her Warfarin at night, but then she would 
wake
up in the middle of the night and believe that she had not taken
her Warfarin and take another dose - she is unsure how many 
extra
doses of warfarin she took). She notes that around this time, 
she
also developed lightheadedness and hematuria as well. States 
that
her INR was last checked ___ weeks ago and was ~3.8, however 
w/o
change in Warfarin dosing at that time.

She also notes that she was treated for a UTI ~2 weeks ago
(unsure of the antibiotic) as she had developed dysuria and
increased urgency (however no increased frequency) - states that
all of her symptoms resolved with treatment. She states that ~3
days ago she noticed blood clots in her urine, however denied 
any
difficulty with urination.  Around this same time she has
redeveloped increased urinary urgency (denies increased 
frequency
or dysuria though). 

Overall, she believes that during the past week she has started
getting better (particularly in terms of her memory). She denies
any preceding head strikes or LOC, however does note that within
the past week or so she fell while getting out of bed ("my legs
went out") and hit her R leg on the closet - again denied 
hitting
her head or LOC. Denies recent HAs, change in vision, dysphagia,
difficulty speaking, new limb weakness or difficulty walking. 

She also denies fevers, chills, shortness of breath, chest
discomfort (does endorse her usual "reflux" symptoms though),
abdominal pain, nausea, vomiting, diarrhea, constipation, 
melena,
hematochezia, or hematemesis.

In the ED, initial vitals: 95.9, 96, 97/59, 18, 100% RA  

- Exam notable for: Guaiac negative, PVR 141. 

- Labs notable for: WBC 8.4 w/ 74% N0 (Absolute neutrophilia
6.19), 1.2% Granulocytes, H/H 8.1/24.6, Plts 213, INR 14.1, PTT
75, Na 134, HCO3 21, BUN 41, Cr 1.1, Lactate 1.5, Flu negative,
U/A Lg ___, 100 Protein, RBC >182, WBC >182, Many bacteria,
Epi 12.    

- Imaging notable for: CXR with "no acute intrathoracic process" 


- Pt given: IV Vitamin K 10mg x1, placed Foley 

- Vitals prior to transfer: 77, 98/52, 20, 98% RA  
 
On the floor, tells the above history. Also states that she is
feeling well overall. Notes that she feels much less confused
than last week. Notes that the Foley is very irritating for her,
and that she hopes it will be removed in the near future. No new
problems since coming up from the ED. 

REVIEW OF SYSTEMS:  
Complete ROS obtained and is otherwise negative. 

 
Past Medical History:
- Coronary artery disease (per OMR had myocardial infarction in
___ without intervention)
- Peripheral arterial disease with ___ angioplasty and stent in
___, repeat angioplasty and stenting of the ___ as well as
angioplasty and stenting of the SMA with ex lap and small bowel
resection in ___, balloon angioplasty of SMA stent in ___,
aorto-celiac/SMA bypass later in ___, ex lap with LOA and
thrombectomy of SMA bypass with saphenous vein patch of SMA
bypass in ___
- Ischemic colitis / Mesenteric ischemia
- Cholecystitis s/p percutaneous cholecystostomy tube
- Hysterectomy
- COPD
 
Social History:
___
Family History:
-Mother: ___
-Brother: ___
 
Physical ___:
ADMISSION PHYSICAL EXAM:  
VITALS: 98.3, 94 / 64, 76, 20, 100% RA  
GENERAL: AOx3, older woman in NAD laying in bed  
HEENT: Normocephalic, atraumatic. Pupils equal, round, and
reactive bilaterally, extraocular muscles intact. Sclera
anicteric and without injection. MMM, upper dentures.  
NECK: Trachea mid-line  
CARDIAC: RRR. Audible S1 and S2. No murmurs/rubs/gallops. No 
JVD.
LUNGS: CTAB - no wheezes, rhonchi or rales. No increased work of
breathing.  
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.  
EXTREMITIES: No clubbing, cyanosis, or edema.  
SKIN: No evidence of ulcers, rash or lesions suspicious for
malignancy  
NEUROLOGIC: CN2-12 intact. ___ strength througout. Normal
sensation.

DISCHARGE PHYSICAL EXAM
VITALS: 98.3 PO [96/61 HR 64 lying, 91/55 HR 67 sitting, 74/50 
HR
80 standing)], RR 18, SpO2 99 on Ra 
GENERAL: Older woman in lying comfortably in bed, NAD
HEENT: Normocephalic, atraumatic. Sclera anicteric and without
injection.
NECK: Supple 
CARDIAC: RRR. Audible S1 and S2. No murmurs/rubs/gallops. 
LUNGS: CTAB. No wheezes, rhonchi or rales. No increased work of
breathing.  
ABDOMEN: Normal bowels sounds, non distended, non-tender.
EXTREMITIES: No lower extremity edema
NEUROLOGIC: Answering questions appropriately 
 
Pertinent Results:
ADMISSION LABORATORY STUDIES
========================================
___ 01:13PM BLOOD WBC-8.4 RBC-3.27* Hgb-8.1* Hct-24.6* 
MCV-76*# MCH-24.8* MCHC-32.7 RDW-22.2* RDWSD-61.0* Plt ___
___ 01:13PM BLOOD Neuts-74.0* Lymphs-12.4* Monos-11.4 
Eos-0.8* Baso-0.2 Im ___ AbsNeut-6.19* AbsLymp-1.04* 
AbsMono-0.95* AbsEos-0.07 AbsBaso-0.02
___ 10:30PM BLOOD Hypochr-NORMAL Anisocy-1+* Poiklo-2+* 
Macrocy-1+* Microcy-1+* Polychr-1+* Ovalocy-1+* Target-1+* Tear 
Dr-OCCASIONAL
___ 01:13PM BLOOD ___ PTT-75.0* ___
___ 10:30PM BLOOD Ret Aut-0.4 Abs Ret-0.01*
___ 01:13PM BLOOD Glucose-112* UreaN-41* Creat-1.1 Na-134* 
K-3.9 Cl-97 HCO3-21* AnGap-16
___ 10:30PM BLOOD ALT-19 AST-23 LD(LDH)-166 AlkPhos-134* 
TotBili-0.9
___ 10:30PM BLOOD Albumin-2.4* Calcium-7.4* Phos-3.0 Mg-2.4 
Iron-35
___ 10:30PM BLOOD calTIBC-231* VitB12-276 Folate-15 
Ferritn-94 TRF-178*
___ 01:26PM BLOOD Lactate-1.5

DISCHARGE LABORATORY STUDIES
========================================
___ 08:10AM BLOOD WBC-4.6 RBC-3.50* Hgb-9.0* Hct-29.9* 
MCV-85 MCH-25.7* MCHC-30.1* RDW-22.0* RDWSD-66.5* Plt ___
___ 08:10AM BLOOD ___ PTT-25.0 ___
___ 06:29AM BLOOD Glucose-105* UreaN-13 Creat-0.6 Na-142 
K-4.4 Cl-108 HCO3-24 AnGap-10
___ 06:29AM BLOOD Calcium-8.0* Phos-3.6 Mg-1.8

IMAGING/REPORTS
========================================
CXR ___
FINDINGS:  
  
AP upright and lateral views of the chest provided.There is no 
focal 
consolidation, effusion, or pneumothorax. The cardiomediastinal 
silhouette is normal.  Several chronic right lateral rib 
deformities are again noted.  No free air below the right 
hemidiaphragm is seen. 
  
IMPRESSION:  
  
No acute intrathoracic process. 

MICROBIOLOGY
========================================
___ 2:54 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    >100,000 CFU/mL.  PRESUMPTIVE 
IDENTIFICATION. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 
      VIRIDANS STREPTOCOCCI.    10,000-100,000 CFU/mL. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--  =>32 R
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

 
Brief Hospital Course:
BRIEF SUMMARY
=============
___ w/ a history of chronic mesenteric ischemia (s/p multiple 
revascularizations, c/b SMA thrombosis, on warfarin), MI, and 
PVD who presented with hematuria, weakness (s/p fall), and 
confusion, found to have a supratherapeutic INR due to taking 
too many doses of warfarin as well as a UTI.

ACTIVE ISSUES
============
#) SUPRATHERAPEUTIC INR
#) HISTORY OF MESENTERIC ISCHEMIA (s/p multiple 
revascularizations)
Patient presented with hematuria and found to have anemia and a 
supratherapeutic INR of 14.1 in the setting of taking extra 
warfarin.  On admission, warfarin held and given IV vitamin K. 
INR normalized to 1.5 but slowly uptrended again to 6.2. IV 
vitamin K given again, and INR normalized but then slowly began 
uptrending once again. Now s/p PO vitamin K 5mg x3 days 
(___) and INR has normalized to 1.1. Hematologic workup 
did not reveal any underlying coagulopathy. Specifically, 
inhibitor screen was negative, Factor VII wnl making ___ 
___ disease unlikely ___ panel still 
pending], DIC deemed unlikely given normal PTT and no 
schistocytes seen on blood smear. Given patient's INR responded 
to administration of vitamin K, etiology of supratherapeutic INR 
thought to be due to vitamin K deficiency compounded with 
warfarin overdose. Given this is the patient's second 
hospitalization due to bleeding from a supratherapeutic INR, we 
transitioned the patient from warfarin to rivaroxaban 20mg 
daily. We discussed this switch with the patient's vascular 
surgeon, Dr. ___, who was in agreement with this 
decision.

#) HEMATURIA
Presented with gross hematuria in the setting of 
supratherapeutic INR.  CBI placed on presentation given concern 
for clotting. Hematuria improved within one day of presentation 
and foley removed. Repeat UA (sent due to patient's report of 
dysuria) demonstrated persistent microscopic hematuria. Patient 
will need cystoscopy as an outpatient to rule out malignancy, 
especially given her older age and long history of smoking.

#) ANEMIA (ACUTE ON CHRONIC)
Baseline hemoglobin ~9, however previously normocytic. Acute 
anemia likely due to hematuria. Patient has past hx of GIB but 
she was guaiac negative x2. Found to have B12 deficiency 
(low-normal B12 but has elevated methylmalonic acid levels), 
possibly ___ pernicious anemia vs. damage to parietal 
cells/inability to produce intrinsic factor due to damage from 
her chronic mesenteric ischemia. Reticulocyte index was  
inappropriately low on admission but improved from 0.11 to 0.76. 
Gammaglobulinemia as cause of bone marrow suppression unlikely 
given normal gamma gap (Total protein minus albumin). 
Interestingly, her albumin is low (2.4) but she does not look 
malnourished. She is HIV negative. She was started on oral B12. 
She will need a workup for pernicious anemia as an outpatient.

#) ___
Found to have acute kidney injury on admission (0.9, up from 
baseline of 0.4).  Likely secondary to pre-renal azotemia in the 
setting of hematuria.  Given IVF and resolved with Cr 0.6 by 
discharge.  

#) UTI
#) TOXIC METABOLIC ENCEPHALOPATHY
Patient reported dysuria on admission and had altered mental 
status. Urine cultures showed E. Coli. Treated with ceftriaxone 
x5 days. Patient had vaginal irritation/dysuria after this 
antibiotic course but repeat UA and urine cultures were 
negative. Mental status improved very quickly after UTI 
treatment was initiated and she was fully alert and attentive by 
the time of discharge.

#) VAGINAL IRRITATION
Developed vaginal irritation after being treated for UTI. We 
treated for a presumed yeast infection, and her symptoms 
improving with miconazole nitrate vaginal cream (plan for 
treatment for 7 days, last day ___.

#) WEAKNESS, FALL
ORTHOSTASIS
Weakness and fall likely secondary to symptomatic anemia and 
toxic metabolic encephalopathy in the setting of UTI.  Evaluated 
by ___, determined safe to be discharged to home. However, 
patient found to be orthostatic throughout admission. Patient 
given IVF and encouraged to drink more fluids but remained 
orthostatic. Etiology remains unknown. Diabetes mellitus ruled 
out as a cause of her orthostasis(A1c 5.0). Started on 
fludrocortisone. Patient will need work-up for autonomic 
dysfunction as an outpatient.

#) CONSTIPATION
Patient did not have a bowel movement for several days. Started 
on Miralax.

#) THRUSH
Patient presented with thrush. Inciting cause unclear. Treated 
with nystatin oral suspension. 

CHRONIC ISSUES
==============
#) CAD, PVD
Patient was not on an aspirin or atorvastatin for unclear 
reasons. Started on both aspirin and atorvastatin. Should be 
considered for beta blocker treatment as an outpatient.

TRANSITIONAL ISSUES
==========================================
1) Patient needs cystoscopy as an outpatient to rule out bladder 
malignancy given hematuria, older age, and extensive smoking 
history
2) Patient needs screening colonoscopy in ___ (last 
colonoscopy ___ with recommended repeat ___. Stool was 
guaiac negative x2 during this hospitalization.
3) Patient started on aspirin 81mg daily and atorvastatin 40mg 
daily given history of MI. She should be considered for addition 
of a beta blocker as an outpatient
4) Found to have B12 deficiency (low-normal B12 but elevated 
methylmalonic acid). Started on oral B12, needs to be worked up 
for possible pernicious anemia
5) Found to be orthostatic during hospitalization. Diabetes 
mellitus ruled out (A1c 5.0) as the etiology. Started on 
fludrocortisone and given TEDs compression stockings. Needs 
workup for autonomic dysfunction.
6) Patient's INR eventually stopped uptrending with repeat 
administration of vitamin K, but ___ and PTT should be re-checked 
as an outpatient to ensure INR does not become supratherapeutic.

#Code status: Full, confirmed
#Health care proxy/emergency contact: 
Name of health care proxy: ___. 
Relationship: Daughter. 
Phone number: ___. 
Cell phone: ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Warfarin 3 mg PO DAILY16 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
2.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth nightly Disp #*30 
Tablet Refills:*0 
3.  Cyanocobalamin 1000 mcg PO DAILY 
RX *cyanocobalamin (vitamin B-12) 1,000 mcg 1 tablet(s) by mouth 
nightly Disp #*30 Tablet Refills:*0 
4.  Fludrocortisone Acetate 0.1 mg PO DAILY 
RX *fludrocortisone 0.1 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
5.  Miconazole Nitrate Vag Cream 2% 1 Appl VG QHS Duration: 7 
Days 
RX *miconazole nitrate 2 % Apply nightly to areas of irritation 
Nightly Disp #*1 Tube Refills:*0 
6.  Multivitamins W/minerals 1 TAB PO DAILY 
RX *multivitamin,tx-minerals [Vitamins and Minerals]  1 
tablet(s) by mouth daily Disp #*30 Tablet Refills:*0 
7.  Polyethylene Glycol 17 g PO BID 
RX *polyethylene glycol 3350 17 gram 1 powder(s) by mouth twice 
daily Disp #*14 Packet Refills:*0 
8.  Rivaroxaban 20 mg PO DAILY 
with food 
RX *rivaroxaban [___] 20 mg 1 tablet(s) by mouth nightly 
Disp #*30 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1. Supratherapeutic INR
2. Microcytic anemia
3. B12 deficiency
4. Orthostatic hypotension
5. Yeast infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Why you were in the hospital:
-You came in to the hospital because you had blood in your 
urine. 
-Your INR was very high because you took too much Coumadin, and 
this is why you had blood in your urine.
-You also had burning and pain when you urinate.

What we did:
-We gave you medicines to stop the bleeding and make your INR 
normal. We also gave you a blood transfusion. 
-We treated your bladder infection with antibiotics. 
-We found that you have low Vitamin B12. We gave you a 
medication to increase your Vitamin B12. 
-We found that your blood pressure is low when you stand up. We 
gave you a medication to increase your blood pressure when you 
stand up.

What you need to do when you leave the hospital:
-Please continue to take all of your medications as prescribed
-Please see Dr. ___ at your appointment on ___ at 
11:45AM
-Please call Dr. ___ office to set up an appointment. He may 
be able to schedule an appointment in ___, but if not, you 
will need to see him at his clinic in ___.

We wish you the best in the future.

Your ___ care team
 
Followup Instructions:
___